US07425568B2
2-[2-(3-Chlorophenyl)chroman-6-yloxy]-5-nitropyridine was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) starting from 590 mg of 2-(3-chlorophenyl)chroman-6-ol. The product was recrystallised from a 3:1 mixture of 2-propanol and ethyl acetate. 1H NMR (400 MHz, CDCl3) δ: 9.04 (d, 1H, J 2.9 Hz), 8.60 (dd, 1H, J 9.0, 2.9 Hz), 7.53 (s, 1H), 7.467-7.42 (m, 3H), 7.20 (d, 1H, J 9.0 Hz), 7.00 (dd, 1H, J 8.7, 2.7 Hz), 6.97 (d, 1H, J 2.7 Hz), 6.94 (d, 1H, J 8.7 Hz), 5.18 (dd, 1H, J 10.2, 2.2 Hz), 2.97 (ddd, 1H, J −17.0, 11.5, 5.9 Hz), 2.83 (ddd, 1H, J −17.0, 8.1, 4.5 Hz), 2.21 (m, 1H), 2.00 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-(3-chlorophenyl)chroman-6-ol | 590 mg | ClC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13ClO2
product | 2-[2-(3-Chlorophenyl)chroman-6-yloxy]-5-nitropyridine | ClC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C20H15ClN2O4
